US04783462
2-t-Butyl-4-n-propyl-5-(3-hydroxypropylamino)-3(2H) pyridazinone
A mixture comprising 14.0 g of 2-t-butyl-4-n-propyl-5-chloro-3(2H)pyridazinone, 44 g of 3-hydroxypropylamine and 14.8 g of anhydrous potassium carbonate, was stirred at a temperature of from 145° to 155° C. for 12.5 hours. The reaction solution was returned to room temperature, and about 200 ml of cold water was added. The mixture was stirred. The precipitated white crystals were collected by filtration, and dried to obtain 12.1 g of the above identified compound having a melting point of from 167° to 169° C.

reactant | 2-t-butyl-4-n-propyl-5-chloro-3(2H)pyridazinone | 14.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)CCC)Cl | C11H17ClN2O
reactant | 3-hydroxypropylamine | 44 g | OCCCN | C3H9NO
reactant | potassium carbonate | 14.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | about 200 ml | O | H2O
product | 2-t-Butyl-4-n-propyl-5-(3-hydroxypropylamino)-3(2H) pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)CCC)NCCCO | C14H25N3O2
